* C:\Users\Bruno\Stuff\UTN\TC2\tc2-r4001\trabajo_semanal_1\Draft1.asc
XU1 N001 0 N006 opamp Aol=100K GBW=10Meg
C1 N006 N001 1µ
R2 N006 N001 300k
XU2 0 N007 N002 opamp Aol=100K GBW=10Meg
XU3 0 N004 N003 opamp Aol=100K GBW=10Meg
C2 N003 N007 1µ
R4 N004 N003 100k
R4p N002 N004 100k
R3p N002 N001 100k
V1 N005 0 AC 1
R1 N001 N005 10k
R3 N007 N006 100k
.lib opamp.sub
.ac dec 1000 100m 100k
.backanno
.end
