* C:\Users\Bruno\Stuff\UTN\TC2\tc2-r4001\trabajo_semanal_1\Draft1.asc
XU1 N001 0 N003 opamp Aol=100K GBW=10Meg
XU2 0 N005 N004 opamp Aol=100K GBW=10Meg
XU3 0 N007 N002 opamp Aol=100K GBW=10Meg
R1 N007 N003 1Meg
C1 N004 N007 1µ
R2 N005 N004 1k
R3 N002 N005 1k
R4 N002 N001 1Meg
C2 N003 N001 1µ
R5 N003 N001 3Meg
R6 N001 N006 100k
V1 N006 0 SINE(0 1 159.1m) AC 1
.lib opamp.sub
;ac dec 1000 0.1 100
.tran 100
.backanno
.end
